US07714132B2
32a) 8-Methoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
A suspension of 4-piperidone monohydrate hydrochloride (1.0 g, 6.5 mmol) and 4-methoxyphenylhydrazine hydrochloride (1.14 g, 6.5 mmol) in ethanol (17 ml) is kept stirring at reflux overnight. The resulting solid is filtered off and washed with diethyl ether to afford crude sub-title compound, which is used without further purification: tR (LC-1) 0.38; ESI-MS (positive ion): m/z 203.19 [M+H]+ (calcd 202.25 for C12H14N2O).

reactant | 4-piperidone monohydrate hydrochloride | 6.5 mmol, 1.0 g | Cl.O.N1CCC(CC1)=O
reactant | 4-methoxyphenylhydrazine hydrochloride | 6.5 mmol, 1.14 g | Cl.COC1=CC=C(C=C1)NN
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 8-Methoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | COC1=CC=2C3=C(NC2C=C1)CCNC3 | C12H14N2O
